US07041668B2
A solution of 4-fluoro-benzenesulfonic acid 4-amino-3-nitro-phenyl ester (800 mg) and cyclopropylmethylamine (890 μl) in N-methylpyrrolidinone (8 ml) was heated at 110° C. in a sealed tube for 14 hours. The reaction mixture was then poured into water (150 ml) and extracted three times with ethyl acetate (40 ml). The combined extracts were dried over magnesium sulfate and then evaporated. The residue was subjected to flash chromatography on silica eluting with a mixture of ethyl acetate and heptane (50:50, v/v) to give 4-(cyclopropylmethyl-amino)-benzenesulfonic acid 4-amino-3-nitro-phenyl ester (786 mg) as a yellow solid.

reactant | 4-fluoro-benzenesulfonic acid 4-amino-3-nitro-phenyl ester | 800 mg | NC1=C(C=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)F)[N+](=O)[O-] | C12H9FN2O5S
reactant | cyclopropylmethylamine | 890 μl | C1(CC1)CN | C4H9N
reactant | water | 150 ml | O | H2O
solvent | N-methylpyrrolidinone | 8 ml | CN1C(CCC1)=O | C5H9NO
product | 4-(cyclopropylmethyl-amino)-benzenesulfonic acid 4-amino-3-nitro-phenyl ester | 786 mg | NC1=C(C=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)NCC1CC1)[N+](=O)[O-] | C16H17N3O5S
